* ============================================
* Test: hold_run.spice
* Cell: 8T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-06-19
* ============================================

* -- includes --
.include /workspace/analog/tests/8T_tb.spice

* -- stimulus --
VVDD vdd  0 3.3   ; supply
VVSS vss  0 0     ; source
VWL  wl   0 0     ; hold: OFF
VBL  wbl  0 0     ; bitlines parked (or floating)
VBLB wblb 0 0     ; bitlines parked (or floating)
VRBL rbl  0 0     ; bitline parked
VA   a   0 3.3    ; set Activation = HI


* -- initial conditions --
.ic v(q)=3.3 v(qb)=0       ; initial state: Q=1, QB=0

* -- sim --
.control
  save all
  
  tran 0.1n 50n uic

  * plot v(q) v(qb)

  * --- validate data ---
  echo
  meas tran q_init  FIND v(q)  AT=5n
  meas tran qb_init FIND v(qb) AT=5n
  echo
  meas tran q_final FIND v(q) AT=50n
  meas tran qb_final FIND v(qb) AT=50n
  echo
  * --- save .raw for python parsing ---
  write /workspace/analog/sim/8t/results/hold_run.raw all

.endc

.end